US08017602B2
Step vi) 8-(2-Azidoacetyl)-5-(benzyloxy)-2H-benzo[b][1,4]oxazin-3(4H)-one
Sodium azide (1.18 g) was added to a suspension of 5-(benzyloxy)-8-(2-chloroacetyl)-2H-benzo[b][1,4]oxazin-3(4H)-one (4.8 g) in DMF (50 mL) and stirred for 2 h. The mixture was poured onto ice/water and the resulting solid filtered off, washed with water and dried under vacuum at 40° C. to afford the subtitled compound as a light brown solid (4.6 g). 1H NMR (300 MHz, DMSO-d6) δ 10.42 (s, 1H), 7.55 (m, 2H), 7.48 (m, 1H), 7.43-7.29 (m, 3H), 6.97 (m, 1H), 5.31 (s, 2H), 4.69 (s, 2H), 4.63 (s, 2H).

reactant | Sodium azide | 1.18 g | [N-]=[N+]=[N-].[Na+]
reactant | 5-(benzyloxy)-8-(2-chloroacetyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | 4.8 g | C(C1=CC=CC=C1)OC1=CC=C(C=2OCC(NC21)=O)C(CCl)=O | C17H14ClNO4
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 8-(2-Azidoacetyl)-5-(benzyloxy)-2H-benzo[b][1,4]oxazin-3(4H)-one | 4.6 g | N(=[N+]=[N-])CC(=O)C1=CC=C(C2=C1OCC(N2)=O)OCC2=CC=CC=C2 | C17H14N4O4
